US06566535B1
Under an argon atmosphere, magnesium (1.25 g, 51.5 mmol) was suspended in 100 ml of tetrahydrofuran, which was then refluxed. Under reflux, 50 ml of a tetrahydrofuran solution of bromophenetole (10 g, 50 mmol) was dropped and refluxed for 2 hours. After cooling to −11° C., a solution of trimethoxyborane (5.6 ml, 50 mmol) in 50 ml of tetrahydrofuran was dropped at −11 to −8° C. Stirring was conducted at −10° C. for 1 hour. At room temperature, palladium (II) acetate (64 mg, 0.285 mmol) and subsequently triphenylphosphine (299 mg, 1.14 mmol) were added and stirred at room temperature for 30 minutes. 5-Bromo-2-fluorobenzaldehyde (5.79 g, 28.5 mmol) and subsequently 30 ml of an aqueous solution of potassium carbonate (20.7 g, 150 mmol) were added at room temperature and heated under reflux for 5 hours. After cooling to room temperature, 170 ml of a 2N hydrochloric acid was dropped at 20 to 30° C. After phase separation had occurred, the water layer was extracted with 80 ml of toluene. The organic layers were combined and washed with two 100-ml portions of saturated brine. To the organic layer, 1.0 g of activated carbon (Shirasagi A) and tri-n-butylphosphine (0.71 ml) were added and stirred at 70° C. for 20 minutes. After filtration, the residue was washed with 50 ml of toluene and then the filtrate was concentrated under vacuum. Ten milliliters of ethanol was added and then 5 ml of water was added under reflux. After cooling, the resultant was stirred while cooling in ice. The resultant was filtered under reduced pressure and the residue was washed with 20 ml of ethanol containing 50% of water. The residue was dried under vacuum (40° C.) to yield 5.7 g (Yield 82%) of 5-(4-ethoxyphenyl)-2-fluorobenzaldehyde.

reactant | magnesium | 51.5 mmol, 1.25 g | [Mg] | Mg
reactant | bromophenetole | 50 mmol, 10 g | BrC1=C(C=CC=C1)OCC | C8H9BrO
reactant | trimethoxyborane | 50 mmol, 5.6 ml | COB(OC)OC | C3H9BO3
reactant | 5-Bromo-2-fluorobenzaldehyde | 28.5 mmol, 5.79 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium (II) acetate | 0.285 mmol, 64 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1.14 mmol, 299 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(4-ethoxyphenyl)-2-fluorobenzaldehyde | 5.7 g, Yield 82% | C(C)OC1=CC=C(C=C1)C=1C=CC(=C(C=O)C1)F | C15H13FO2
